US04420480
Step A: Preparation of 2-Acetamido-3,4-dihydronaphthalen-1(2H)-one
A slurry of 2-oximino-3,4-dihydronaphthalen-[1(2H)-one (8.75 gm, 0.05 m) acetic anhydride (25 ml), tetrahydrofuran (150 ml) and Pd/C (10%, 500 mg) was hydrogenated on a Parr apparatus for 3 hours. The catalyst was removed by filtration through diatomaceous earth. The organic solvents were evaporated under reduced pressure (20 mm) to yield the product as an oil, which was used in the next step without further purification.

reactant | 2-oximino-3,4-dihydronaphthalen | N(O)=C1CC2=CC=CC=C2CC1 | C10H11NO
reactant | acetic anhydride | 25 ml, 8.75 gm | C(C)(=O)OC(C)=O | C4H6O3
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 2-Acetamido-3,4-dihydronaphthalen-1(2H)-one | C(C)(=O)NC1C(C2=CC=CC=C2CC1)=O | C12H13NO2
